US07115740B2
(R)-1-(2-tert-Butyl-diphenyl-silanyloxy-1-methyl-ethyl)-3-(4-methoxy-phenyl)-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (0.55 g, 0.80 mmol) was dissolved in anhydrous tetrahydrofuran (6 mL) and treated with tetrabutylammonium fluoride (1.0 M in tetrahydrofuran, 3.2 mL, 3.20 mmol) (Aldrich) at 40° C. for 3 hours and then at room temperature for 2 hours. The reaction was concentrated. The residue was redissolved in ethyl acetate and washed with water and brine. The organic phase was dried over anhydrous sodium sulfate and concentrated. Purification by flash chromatography (Biotage 40M, ethyl acetate-hexanes gradient [75–85% ethyl acetate]) followed by crystallization from ethyl acetate-hexanes gave (R)-(−)-1-(2-hydroxy-1-methyl-ethyl)-3-(4-methoxy-phenyl)-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a white solid. (Yield 0.26 g, 79.9%). Melting Point: 156–163° C.

reactant | (R)-1-(2-tert-Butyl-diphenyl-silanyloxy-1-methyl-ethyl)-3-(4-methoxy-phenyl)-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.80 mmol, 0.55 g | C(C)(C)(C)C([C@](C)(N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=CC=C(C=C2)OC)=O)O[SiH3])(C2=CC=CC=C2)C2=CC=CC=C2 | C38H41N5O3Si
reactant | tetrabutylammonium fluoride | 3.20 mmol, 1.0 M, 3.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | (R)-(−)-1-(2-hydroxy-1-methyl-ethyl)-3-(4-methoxy-phenyl)-7-phenylamino-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | OC[C@@H](C)N1C(N(CC=2C1=NC(=NC2)NC2=CC=CC=C2)C2=CC=C(C=C2)OC)=O | C22H23N5O3
